US07825253B2
N2-(3-Cyclopropyl-phenyl)-N5-(1H-indol-4-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=405.5 (M+H+), was prepared from 5-nitro-2-chloroquinoline, 3-cyclopropylaniline and 4-indolecarbaldehyde as described in example 26.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 3-cyclopropylaniline | C1(CC1)C=1C=C(N)C=CC1 | C9H11N
reactant | 4-indolecarbaldehyde | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
product | N2-(3-Cyclopropyl-phenyl)-N5-(1H-indol-4-ylmethyl)-quinoline-2,5-diamine | C1(CC1)C=1C=C(C=CC1)NC1=NC=2C=CC=C(C2C=C1)NCC1=C2C=CNC2=CC=C1 | C27H24N4
